US05192785
(Ethoxycarbonyl)sulfamic acid phenyl ester
Chlorosulfonyl isocyanate (98%, 13.4 ml, 0.15 mole) was stirred in 40 ml of methylene chloride in an acetone-ice bath. Ethanol (8.8 ml, 0.15 mole) dissolved in 20 ml methylene chloride was added dropwise over 28 minutes. The reaction was stirred at room temperature for 15 minutes and then chilled in an ice bath. To the reaction was added a solution of phenol (11.3 g, 0.12 mole) and triethylamine (21 ml, 0.15 mole) in methylene chloride (20 ml) over 27 minutes. The reaction was stirred at ambient temperature for 4 hours and then extracted twice with dilute hydrochloric acid. The organic layer was dried over sodium sulfate and evaporated to 31 g oil. This oil was chromatographed on about 300 g silica gel eluted with 2% ethyl acetate/methylene chloride. The pure fractions were combined and concentrated to 15 g oil.

reactant | Chlorosulfonyl isocyanate | 0.15 mole, 13.4 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Ethanol | 0.15 mole, 8.8 ml | C(C)O | C2H6O
reactant | phenol | 0.12 mole, 11.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | triethylamine | 0.15 mole, 21 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (Ethoxycarbonyl)sulfamic acid phenyl ester | C1(=CC=CC=C1)OS(NC(=O)OCC)(=O)=O | C9H11NO5S
